* Example SPICE netlist for the given schematic

V1 4 0 DC 6
V2 8 0 DC -6

R1 4 5 3k
R2 5 5 3k
R3 6 9 2.4k
R4 9 8 3k
R5 6 7 4.8k
R6 7 8 3k
RL 9 8 

Q1 1 3 2 NPN
Q2 2 5 3 NPN
Q3 5 2 7 NPN
Q4 6 2 9 PNP
Q5 7 5 2 NPN
Q6 9 10 8 PNP

* Inputs
Vin1 3 0 DC 0
Vin2 5 0 DC 0

* Output
Vout 9 0 0

.end